Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide
 
Attending: ___
 
Chief Complaint:
R Flank Pain, Back Pain  

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with ESRD ___ reflux nephropathy s/p DDRT ___. Pt now 
presents with malaise and RLQ abd pain. No fevers or dysuria. No 
hematuria or increased urinary frequency. She reports poor PO 
intake due to decreased appetite for the past week as well. She 
has some nausea and several episodes of emesis earlier in the 
week. Denies any diarrhea or bloody BM. Last BM was this AM. 
Denies CP, cough, SOB.  
She was most recently admitted in ___ with ___ from likely 
AIN from ranitidine. Most recent Cr from OTTR was 2.8 on 
___. No history of resistant UTIs in our micro records, but 
has many allergies. She reports she has otherwise been well 
since her last hospitalization. Denies any medication changes.  
In the ED initial vitals were: 97.5 103 105/55 95%  
- Exam was significant for TTP over RLQ renal graft  
- Renal US showed Normal renal transplant ultrasound.Right upper 
pole renal cyst.  
- Labs were significant for UA with lg leuks, >182 wbc, many 
bacteria and 0 epis, Cr 3.2, Na 130, Bicarb 17. Of note, a cbc 
was sent but clotted. Pt was found to have difficult vascular 
access and after placing a deep bracial peripheral IV, ED 
deferred further attempts for blood draw until pt reached the 
floor.  
- Patient was given Ciprofloxacin 400 mg IV ONCE  
Vitals prior to transfer were: 97.6 98 118/68 16 100% RA  
On the floor, pt feels chilled but otherwise well.  

 
Past Medical History:
1. s/p cadaveric Renal transplant: ___, ESRD ___ chronic  
reflux nephropathy, on prednisone and sirolimus; baseline Cr  
1.0-1.2  
2. Osteopenia ___ chronic steroid use.  
3. Osteonecrosis of feet c/b osteomyelitis  
4. CAD: NSTEMI ___, s/p cardiac cath without intervention  
5. Hyperlipidemia  
6. GERD  
7. s/p craniotomy for ICH (?intracranial aneurysm)  
8. s/p foot surgeries  
9. s/p cholecystecomy, s/p appendectomy  
10. Hx of c.diff 2 and ___ yrs ago  
11. Hx of MRSA osteo ___  
12. Cataract surgery  
___. HTN  
14. H/o DVT  
15. Anemia  
16. Panic disorder  
17. Polyneuropathy in renal disease  
18. Diastolic dysfunction  
19. Hypothyroidism  
20. Chronic low back pain  
21. Hearing loss of both ears  
22. Recent small intestinal adenoma with endoscopic resection 
c/b bowel performation requiring ex-lap in ___  
23. Recurrent colitis due to Clostridium difficile  
24. UTI (lower urinary tract infection)  
 
 
Social History:
___
Family History:
Son with DM. 
 
Physical Exam:
INITIAL PHYSICAL EXAM:  
Vitals - 97.2, 98, 115/59, 96% on RA  
GENERAL: chilled but no rigors  
HEENT: AT/NC, anicteric sclera, pink conjunctiva, dry MM  
NECK: thick neck  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: clear anteriorly  
ABDOMEN: obese, well healed surgical scars, RLQ TTP over site of 
previously transplanted kidney  
EXTREMITIES: trace edema  
PULSES: 1+ DP pulses bilaterally  
SKIN: darkening of skin c/w venous stasis changes, hematomas on 
shins ___ warmth or purulent drainage  
==================================================
DISCHARGE PHYSICAL EXAM:
PHYSICAL EXAM:  
Vitals:  ___ 18 100%RA
Is and Os ___ 
BM (___) x2 
General: seems frustrated laying in bed on bed pan expressing 
frustration about being left in bed on bedpan coherent and 
appropriatly interactive
HEENT: AT/NC, anicteric sclera, pink conjunctiva, dry MM  
NECK: thick neck, no JVD   
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: clear anteriorly  
ABDOMEN: obese, multiple well healed surgical scars, +bs no RLQ 
tenderness, minimal tenderness in epigastric area. +bs
EXTREMITIES: trace edema, chronic overlaying skin changes on 
shins with hematomas tenderness to palpation.    
PULSES: 1+ DP pulses bilaterally  
Neuro: CN ___ intact, can raise hands above head, no orbiting, 
asterixis, tremor, follows direction appropriatly, ___ dorsi and 
plantar flexion, can move legs side to side b/l and paise around 
1 inch off of bed. 
SKIN: darkening of skin c/w venous stasis changes, hematomas on 
b/l  shins ___ warmth or purulent drainage  

 
Pertinent Results:
INITIAL LABS: 

___ 04:00PM URINE  WBCCLUMP-MANY MUCOUS-RARE
___ 04:00PM URINE  GRANULAR-4* HYALINE-11*
___ 04:00PM URINE  RBC-2 WBC->182* BACTERIA-MANY YEAST-NONE 
EPI-0
___ 04:00PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-300 
GLUCOSE-NEG KETONE-10 BILIRUBIN-MOD UROBILNGN-4* PH-6.0 LEUK-LG
___ 04:00PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 04:00PM URINE  GR HOLD-HOLD
___ 04:00PM URINE  UHOLD-HOLD
___ 04:00PM URINE  HOURS-RANDOM UREA N-245 CREAT-281 
SODIUM-13 POTASSIUM-50 CHLORIDE-14
___ 05:00PM   WBC-UNABLE TO 
___ 05:00PM   ALBUMIN-3.6 CALCIUM-9.1 PHOSPHATE-4.7* 
MAGNESIUM-1.6
___ 05:00PM   LIPASE-16
___ 05:00PM   ALT(SGPT)-11 AST(SGOT)-23 ALK PHOS-60 TOT 
BILI-0.3
___ 05:00PM   estGFR-Using this
___ 05:00PM   GLUCOSE-75 UREA N-41* CREAT-3.2*# SODIUM-130* 
POTASSIUM-4.4 CHLORIDE-92* TOTAL CO2-17* ANION GAP-25*
IMAGING: 

___ EXAMINATION: CHEST (AP AND LATERAL) INDICATION: History: 
___ with ESRD status post renal transplant now with right flank 
and back pain for 1 week and positive urinalysis TECHNIQUE: 
Upright AP and lateral views of the chest COMPARISON: ___ FINDINGS: Heart size remains mildly enlarged. The aorta is 
diffusely calcified and tortuous. Mediastinal and hilar contours 
are relatively unchanged. Low lung volumes cause crowding of the 
bronchovascular structures without overt pulmonary edema. No 
focal consolidation, pleural effusion or pneumothorax is 
present. Mild atelectasis is noted in the lung bases. 
Degenerative changes are again seen in the thoracic spine. 
IMPRESSION: No acute cardiopulmonary abnormality. 

// EXAMINATION: RENAL TRANSPLANT U.S. INDICATION: ___ year old 
woman with right lower quadrant renal transplant in ___, now 
with tenderness to palpation over transplant site TECHNIQUE: 
Grey scale as well as color and spectral Doppler ultrasound 
images of the renal transplant were obtained. COMPARISON: Renal 
transplant ultrasound ___. FINDINGS: The right 
iliac fossa transplant renal morphology is normal. Specifically, 
the cortex is of normal thickness and echogenicity, and the 
medullary pyramids are normal. There is no urothelial 
thickening, and renal sinus fat is normal. A right upper pole 
simple cyst measuring 4.8 x 4.9 cm is relatively unchanged since 
___. There is no hydronephrosis and no perinephric 
fluid collection. The resistive index of intrarenal arteries 
ranges from 0.68 to 0.72, within the normal range. The resistive 
indices measured in ___ range from 0.64 to 0.7. The 
main renal artery shows a normal waveform, with prompt systolic 
upstroke and continuous antegrade diastolic flow, with peak 
systolic velocity of 40.1 cm/sec. Vascularity is symmetric 
throughout transplant. The transplant renal vein is patent and 
shows normal waveform. IMPRESSION: Unremarkable renal transplant 
ultrasound. Right upper pole simple renal cyst. / 

___ EXAMINATION: CHEST (PORTABLE AP) INDICATION: ___ year old 
woman with /pyelo /now hypoxia // interval change interval 
change IMPRESSION: In comparison with the study of ___, 
allowing for the portable AP study, there is probably little 
change in the appearance of the cardiomediastinal silhouette. 
The left hemidiaphragm is not sharply seen, consistent with 
volume loss at the left base with small pleural effusion. The 
right lung is essentially clear and there is no definite 
elevation pulmonary venous pressure. 

DISCHARGE LABS: 

___ 06:35AM BLOOD WBC-3.9* RBC-3.84* Hgb-10.6* Hct-30.9* 
MCV-81* MCH-27.6 MCHC-34.3 RDW-16.2* Plt ___
___ 07:15AM BLOOD WBC-3.3* RBC-3.82* Hgb-10.6* Hct-31.7* 
MCV-83 MCH-27.8 MCHC-33.6 RDW-16.1* Plt ___
___ 07:29AM BLOOD WBC-4.7 RBC-4.19* Hgb-11.4* Hct-36.0 
MCV-86 MCH-27.1 MCHC-31.6 RDW-15.7* Plt ___
___ 01:38PM BLOOD WBC-5.2 RBC-4.14* Hgb-11.2* Hct-35.6* 
MCV-86 MCH-27.1 MCHC-31.5 RDW-15.7* Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD ___
___ 07:29AM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-102* UreaN-32* Creat-1.8* Na-142 
K-3.6 Cl-107 HCO3-25 AnGap-14
___ 07:15PM BLOOD Na-137 K-4.2 Cl-101
___ 07:15AM BLOOD Glucose-109* UreaN-37* Creat-2.3* Na-136 
K-4.4 Cl-101 HCO3-21* AnGap-18
___ 07:29AM BLOOD Glucose-129* UreaN-43* Creat-2.9* Na-132* 
K-4.7 Cl-98 HCO3-20* AnGap-19
___ 01:38PM BLOOD Glucose-127* UreaN-40* Creat-2.8* Na-133 
K-4.5 Cl-98 HCO3-15* AnGap-25*
___ 06:35AM BLOOD Calcium-8.8 Phos-1.4*# Mg-1.8
___ 07:15AM BLOOD Calcium-8.7 Phos-3.5# Mg-2.0
___ 07:29AM BLOOD Calcium-8.5 Phos-5.6* Mg-2.___ y/o F with a PMH ESRD s/p renal transplant in ___ who 
presents malaise and RLQ abd pain and back pain with nausea and 
vomiting diagnosed with transplant pyelnonephritis, sensitive to 
cipro hospitral course complicated by hopspital delerium. 

ACTIVE MEDICAL ISSUES:  
#Transplant pyelonephritis: Pt presented to the ED with several 
days of malaise, RLQ abd pain and nausea and vomiting found to 
have UA with pyuria concerning for complicated UTI/ 
pyelnephritis. Patient was found to meet ___ SIRS criteria with 
tachycardia and ___. CBC without WBC count but this may be due 
to chronic immunosupression. Lactate was reassuring. Renal US 
with " Unremarkable renal transplant ultrasound" Urine culture 
found to grow klebsiella sensitive to cipro. Patient treated 
with 14 day course of ciprofloxacin (___) 

#AMS: Throughout this hospitalization patient found to have 
waxing and waning mental status and to be very lethargic likely 
secondary to hospital delerium and oversedation from home 
clonazepam and oxycontin. On day 1 of admission patient 
triggered for AMS as she was only responsive to sternal rub. ABG 
found her to have respiratory acidosis thought to be in the 
setting of likely hypoventilation from home doses of klonipin 
and oxycontin. Patient recovered her MS ___ intervention.  
Patients ongoing waxing and waning delerium thought to be a 
combination of hospital delerium with contribution from infecion 
and constipation likely secondary to chronic narcotics. She was 
also found to be retaining urine after foley removal. Neuro exam 
non focal. Treated with seroquel qhs while admitted. On the day 
of discharge patient had returned to her baseline mental status 
and was urinating spontaneously. 

# Anion gap metabolic acidosis- Pateint presented with anion gap 
metabolic acidosis of uncertain etiology. Lactate not elevated. 
This may be explained by ketones in urine from poor PO intake 
leading to physiologic fasting state. Resolved on discharge. 

___ on CKD: Cr 3.2 on admission. Most recent Cr on 2.3 on 
___ but on review ___ records Cr was 1.4 in ___. ___ likely pre-renal in setting of poor PO intake and 
malaise. Cr trended on discharge to 1.8. She was toleraying and 
taking PO. 
 
#Hematomas on shins: Patient found to have hematomas on 
bilateral shins. She reported these were from bumping up against 
her wheelchair. They were tender but did not appear acutely 
infected on exam. 

CHRONIC MEDICAL ISSUES:  
# ESRD ___ to chronic reflux nephropathy s/p cadaveric renal 
transplant in ___ . Tacro level was found to be elevated to 13. 
Her dose was decreased to 1.5mg daily
She was continued on PredniSONE 20 mg PO/NG DAILY and 
prophylaxis with acyclovir.
 
# Hyperphosphatemia ___ metabolic bone disease. Phos 4.7 on 
admission, which is improved from previous discharge phos of 
5.0. She was not on a phosphate binder. Phos on discharge was 
1.4. She shoudl have her phosphate monitored as an outpatient. 

#hypothyroidism:  stable. She was continued on home 
Levothyroxine Sodium 125 mcg
  
#anxiety:  clonazepam was discontinued due to AMS 

#HL: continued home statin 
 
#GERD: continued home omeprazole, NO ranitidine given h/o AIN 
 
#chronic pain: ___ OA long acting opiods discontinued due to 
episode of AMS, pain controled with tyelenol and low dose 
tramadol, Voltaren *NF* (diclofenac sodium) 1 % topical daily 
 
#Code: Full (confirmed) 
# 
Transitional Issues: 
- Oxycontin and clonazepam were discontinued after patient had 
episode of hypercarbic respiratory ddepression after recieving 
them. She received tramadol as needed for pain and otherwise had 
no symptoms of withdrawal from not taking these home 
medications. 
- Patients Cr trended back to 1.8 on discharge. Unclear baseline 
though review ___ records Cr of 1.2 in ___. 
Please continue to monitor creatinine closely on discharge.
- Last dose of cipro ___.
- She had urinary retention while here requiring intermittent 
catheterization. This may be from the urinary infection, but if 
recurrent, would conisder urodynamic studies or evaluation for 
pelvic organ prolapse. 
- Tacrolimus decreased to 1.5 mg QAM. Second dose of 0.5mg was 
discontinued as trough levels were elevated. 
- She needs labs checked in one week on ___ (BMP, tacrolimus 
trough) and faxed to the ___ transplant clinic at ___
attn Dr. ___. 
-Patients phosphate was 1.4 on discharge.  She should have 
phosphate checked as an outpatient. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H pain 
2. Acyclovir 400 mg PO DAILY 
3. Calcitriol 0.25 mcg PO BID 
4. ClonazePAM 2 mg PO BID 
5. Levothyroxine Sodium 125 mcg PO DAILY 
6. Ondansetron 4 mg PO Q8H:PRN nausea 
7. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
8. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
9. Prochlorperazine 10 mg PO Q6H:PRN nausea 
10. Rosuvastatin Calcium 40 mg PO DAILY 
11. Tacrolimus 1.5 mg PO QAM 
12. Tacrolimus 0.5 mg PO BREAKFAST 
13. Voltaren (diclofenac sodium) 1 % topical QD 
14. Aspirin (Buffered) 81 mg PO DAILY 
15. Loratadine 10 mg PO DAILY 
16. Omeprazole 20 mg PO BID 
17. pramipexole 0.25 mg ORAL DAILY:PRN pain 
18. PredniSONE 20 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H pain 
2. Acyclovir 400 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Omeprazole 20 mg PO BID 
5. PredniSONE 20 mg PO DAILY 
6. Rosuvastatin Calcium 40 mg PO DAILY 
7. Tacrolimus 1.5 mg PO QAM 
8. Aspirin (Buffered) 81 mg PO DAILY 
9. Calcitriol 0.25 mcg PO BID 
10. Loratadine 10 mg PO DAILY 
11. Ondansetron 4 mg PO Q8H:PRN nausea 
12. pramipexole 0.25 mg ORAL DAILY:PRN pain 
13. Prochlorperazine 10 mg PO Q6H:PRN nausea 
14. Voltaren (diclofenac sodium) 1 % topical QD 
15. TraMADOL (Ultram) 25 mg PO Q4H:PRN pain  
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth Q4H:PRN 
Disp #*26 Tablet Refills:*0
16. Ciprofloxacin HCl 500 mg PO Q24H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth daily Disp #*9 
Tablet Refills:*0
17. Outpatient Lab Work
Diagnosis: acute kidney injury (ICD9: ___)
Please check basic metabolic panel and tacrolimus trough on 
___
Fax to ___ Transplant Clinic ATTN Dr. ___ ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Final Diagnosis:
transplant pyelonephritis
delirium

Secondary Diagnosis: 
s/p cadaveric Renal transplant

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital with a kidney infection.  You 
were treated with antibiotics and appear to have responded. You 
also were more confused in the hospital which is most likely 
because you had an infection and we treated you for that. It 
also seems like your oxycontin and klonapin are ___ you drowsy 
and confused and we recommend that you do not take these 
medications anymore. 
We are discharging you with an antibiotic called ciprofloxacin 
that you should take at home.  Your last day of antibiotics is 
___. 

You need to have your labs checked in one week, on ___. You 
need to have a tacrolimus trough that day, so come to the lab in 
the morning for your bloodwork. Do not take your tacrolimus 
until your labs have been drawn. 

Please follow up with your primary doctor and kidney doctor.  
We are so glad to see you doing and feeling better. 

All the best, 
-Your ___ care team-
 
Followup Instructions:
___